US06130241
3-n-Octyl-3-azabicyclo[3.1.0]hexane-2,4-dione (alternative route)
A mixture of n-octylamine (24.2 g) and 3-oxabicyclo[3.1.0]hexane-2,4-dione (20.0 g) was heated at 180° C. for 2.5 hours and was then cooled to room temperature. The mixture was distilled in vacuo (boiling point 140-142° C. @ 0.1 mmHg) to give the title compound as a colourless oil.

reactant | n-octylamine | 24.2 g | C(CCCCCCC)N | C8H19N
reactant | 3-oxabicyclo[3.1.0]hexane-2,4-dione | 20.0 g | C12C(OC(C2C1)=O)=O | C5H4O3
product | 3-n-Octyl-3-azabicyclo[3.1.0]hexane-2,4-dione | C(CCCCCCC)N1C(C2CC2C1=O)=O | C13H21NO2
